US05760041
N'-(4-Amino-2-cyanophenyl)-N,N-dimethylformamidine
A solution of 6.0 g (27.5 mmol) of N'-(2-cyano-4-nitrophenyl)-N,N-dimethylformamidine, 33.9 g (41.8 ml, 412.4 mmol) of cyclohexene, and 0.6 g of 10% Pd/C in 360 ml of methanol was refluxed for 4 hrs. The hot mixture was filtered through Celite. Solvent was removed and the residue was recrystallized from chloroform-carbon tetrachloride giving 4.9 g (95%) of the title compound as a light gray crystalline solid. mass spectrum (m/e):188.9 (M+H, electrospray).

reactant | N'-(2-cyano-4-nitrophenyl)-N,N-dimethylformamidine | 27.5 mmol, 6.0 g | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])N=CN(C)C | C10H10N4O2
reactant | cyclohexene | 412.4 mmol, 41.8 ml, 33.9 g | C1=CCCCC1 | C6H10
solvent | methanol | 360 ml | CO | CH4O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | N'-(4-Amino-2-cyanophenyl)-N,N-dimethylformamidine | NC1=CC(=C(C=C1)N=CN(C)C)C#N | C10H12N4
